US05516774
N-[4-[(6,7-Dihydro-5H-pyrrolo[1,2-a][1,5]benzodiazepin-5-yl)carbonyl]-3-chlorophenyl]-2,4-dichlorobenzamide
To a mixture of 0.10 g of 6,7-dihydro-5-(4-amino-2-chlorobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine and 0.06 g of triethylamine in 6 ml of dichloromethane is added 0.10 g of 2,4-dichlorobenzoyl chloride in 0.5 ml of dichloromethane. The mixture is stirred at room temperature for 2 hours and 2 ml of 1N NaOH is added. The volatiles are removed under vacuum and to the residue is added 2 ml of tetrahydrofuran and 1 ml of methanol. The mixture is stirred at room temperature for 2 hours and the volatiles removed. To the residue is added 2 ml of 1N NaOH and 5 ml of H2O. The mixture is extracted with ethyl acetate and the extract washed with brine and dried (Na2SO4). The solvent is removed and the solid triturated with diethyl ether-hexane to give 0.15 g of white solid, Mass Spectrum (CI): 510(M+H, Cl35).

reactant | 6,7-dihydro-5-(4-amino-2-chlorobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine | 0.10 g | NC1=CC(=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=CC3)C=C1)Cl | C19H16ClN3O
reactant | triethylamine | 0.06 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorobenzoyl chloride | 0.10 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | NaOH | 1N, 2 ml | [OH-].[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | N-[4-[(6,7-Dihydro-5H-pyrrolo[1,2-a][1,5]benzodiazepin-5-yl)carbonyl]-3-chlorophenyl]-2,4-dichlorobenzamide | 0.15 g | C1=CC=CC=2N(CCC=3N(C21)C=CC3)C(=O)C3=C(C=C(C=C3)NC(C3=C(C=C(C=C3)Cl)Cl)=O)Cl | C26H18Cl3N3O2
